US04277479
Into 100 ml of ethanol, 3.22 g of 6-hydroxycarbostyril and 3.51 ml of 1,5-diazabicyclo[5,4,0]-undecene-5 (DBU) are added and refluxed under stirring. Then 100 ml of ethanol containing 7 g of 1-benzyl-5-γ-iodopropyltetrazole is added dropwise for 90 minutes. After completion of the addition, the reaction mixture is further refluxedfor 5 hours and then concentrated. The residue is extracted with 300 ml of chloroform and the chloroform layer is washed with a diluted NaOH aqueous solution, a diluted hydrochloric acid and water and dried with Na2SO4. After the removal of the solvent, the residue is recrystallized from water-containing ethanol to obtain 4 g of 6-[3-(1-benzyltetrazol-5-yl)propoxy]carbostyril in the form of colorless needle-like crystals. Melting point: 152°-154° C.

reactant | 6-hydroxycarbostyril | 3.22 g | OC=1C=C2C=CC(NC2=CC1)=O | C9H7NO2
reactant | 1-benzyl-5-γ-iodopropyltetrazole | C(C1=CC=CC=C1)N1N=NN=C1CCCI | C11H13IN4
solvent | ethanol | 100 ml, 7 g | C(C)O | C2H6O
solvent | ethanol | 100 ml | C(C)O | C2H6O
product | 6-[3-(1-benzyltetrazol-5-yl)propoxy]carbostyril | 4 g | C(C1=CC=CC=C1)N1N=NN=C1CCCOC=1C=C2C=CC(NC2=CC1)=O | C20H19N5O2
